US07432260B2
3,4-Dimethyl-5-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-pyrimidin-4-yl}-3H-thiazol-2-one [93].
This compound was prepared by condensation between 5-(3-dimethylamino-acryloyl)-3,4-dimethyl-3H-thiazol-2-one and N-[4-(4-methyl-piperazin-1-yl)-phenyl]-guanidine nitrate. Pale solid. Anal. RP-HPLC: tR=10.9 min (0-60% MeCN in 0.1% aq CF3COOH over 20 min, 1 mL/min, purity>97%). 1H-NMR (CDCl3) δ: 2.42 (m, 4H, CH2), 2.53 (s, 3H, CH3), 3.04 (m, 4H, CH2), 3.28 (s, 3H, CH3), 6.84 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 6.86 (d, 2H, J=9.0 Hz, Ph-H), 7.54 (d, 2H, J=9.0 Hz, Ph-H), 8.35 (d, 1H, J=5.5 Hz, pyrimidinyl-H), and 9.33 (s, 1H, NH).

reactant | 5-(3-dimethylamino-acryloyl)-3,4-dimethyl-3H-thiazol-2-one | CN(C=CC(=O)C1=C(N(C(S1)=O)C)C)C | C10H14N2O2S
reactant | N-[4-(4-methyl-piperazin-1-yl)-phenyl]-guanidine nitrate | [N+](=O)(O)[O-].CN1CCN(CC1)C1=CC=C(C=C1)NC(=N)N
reactant | MeCN | CC#N | C2H3N
solvent | CF3COOH | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3,4-Dimethyl-5-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-pyrimidin-4-yl}-3H-thiazol-2-one | CN1C(SC(=C1C)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCN(CC1)C)=O | C20H24N6OS
